US09301990B2
Step a: {2-[2-(2-Amino-ethoxy)-ethoxy]-ethyl}-carbamic acid (3S,8S,9S,10R,13R,14S,17R)-17-((R)-1,5-dimethyl-hexyl)-10,13-dimethyl-2,3,4,7,8,9,10,11,12,13,14,15,16,17-tetradecahydro-1H-cyclopenta[a]phenanthren-3-yl ester
A solution of cholesteryl chloroformate (1 g, 2.23 mmol) in 25 mL dichloromethane was added dropwise under stirring to a solution of 2,2′-(ethylenedioxy)bis-(ethylamine) (495 mg, 3.34 mmol) in 75 mL dichloromethane. The reaction was stirred overnight at room temperature. The reaction was diluted with dichloromethane and extracted with water. The organic extract was dried over anhydrous MgSO4 dihydrate, filtered and evaporated. After purification on amino-modified silica gel (eluent: MeCl2→MeCl2/MeOH=975:25 v/v) the product (615 mg) was obtained as a white, waxy solid. MS (ISP): (M+H) 561.5

reactant | cholesteryl chloroformate | 2.23 mmol, 1 g | C[C@H](CCCC(C)C)[C@H]1CCC2[C@@]1(CCC3C2CC=C4[C@@]3(CCC(C4)OC(=O)Cl)C)C | C28H45ClO2
reactant | 2,2′-(ethylenedioxy)bis-(ethylamine) | 3.34 mmol, 495 mg | C(OCCN)COCCN | C6H16N2O2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | {2-[2-(2-Amino-ethoxy)-ethoxy]-ethyl}-carbamic acid (3S,8S,9S,10R,13R,14S,17R)-17-((R)-1,5-dimethyl-hexyl)-10,13-dimethyl-2,3,4,7,8,9,10,11,12,13,14,15,16,17-tetradecahydro-1H-cyclopenta[a]phenanthren-3-yl ester | C[C@H](CCCC(C)C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](CC[C@@]4([C@H]3CC[C@]12C)C)OC(NCCOCCOCCN)=O | C34H60N2O4
